US07452893B2
Step 6: tert-butyl {trans-4-[2-(2-fluorophenyl)-2-hydroxyethoxy]-cyclohexyl}carbamate
A solution of 26 g of benzyl {trans-4-[2-(2-fluorophenyl)-2-hydroxyethoxy]cyclohexyl}carbamate and 19.4 g of di-tert-butyldicarbonate in 300 mL of ethanol was stirred with 3 g of 10% palladium on carbon under 1 atm of hydrogen for 18 h. After removal of the catalyst by filtration and concentration under reduced pressure the product was crystallized by trituration with hexane. Drying under reduced pressure gave 24 g of product as a white crystalline solid: MS (m+1)=354.4; 1H NMR (400 MHz, CDCl3) 7.52 (m, 1H), 7.25 (m, 1H), 7.18 (m, 1H), 7.0 (m, 1H), 5.17 (d, 1H), 4.4 (br s, 1H), 3.7 (d, 1H), 3.4 (m, 2H), 3.3 (m, 1H), 2.9 (s, 1H), 2.0 (d, 4H), 1.43 (s, 9H), 1.4 (m, 2H), 1.15 (q, 2H).

reactant | benzyl {trans-4-[2-(2-fluorophenyl)-2-hydroxyethoxy]cyclohexyl}carbamate | 26 g | FC1=C(C=CC=C1)C(CO[C@@H]1CC[C@H](CC1)NC(OCC1=CC=CC=C1)=O)O | C22H26FNO4
reactant | di-tert-butyldicarbonate | 19.4 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 300 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 3 g | [Pd] | Pd
product | tert-butyl {trans-4-[2-(2-fluorophenyl)-2-hydroxyethoxy]-cyclohexyl}carbamate | 24 g | FC1=C(C=CC=C1)C(CO[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O)O | C19H28FNO4
